US04985419
A mixture of 10-[(2RS)-1-dimethylamino-2-propyl]-2-phenothiazinecarbothioamide (2 g) and cyclohexylmethylamine 11.4 cc) in absolute ethanol (30 cc) is saturated with hydrogen sulphide and heated for 16 hours to a temperature in the region of 125° C. After cooling, the orange solution obtained is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual orange oil is purified by chromatography on a column (height: 25 cm; diameter: 4 cm) of silica gel (0.06-0.04 mm) under a slight excess pressure of nitrogen (40 kPa) eluting with a 60:40 by volume mixture (1 litre) of ethyl acetate and cyclohexane and collecting 60-cc fractions. The combined fractions 6 to 13 are concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual orange gum (2.5 g) is dissolved in isopropanol (8 cc) under reflux and treated, with stirring, with a solution at 50° C. of fumaric acid (0.6 g) in isopropanol (8 cc). The mixture is allowed to cool and stirring is continued for 1 hour at a temperature in the region of 5° C. The solid formed is drained, washed with isopropanol (2×1 cc) and dried under reduced pressure (5 mm Hg; 0.68 kPa) at 40° C. N-Cyclohexylmethyl-10-[(2RS)-1-dimethylamino-2-propyl]-2-phenothiazinecarbothioamide neutral fumarate (2.53 g) is thereby obtained in the form of a yellow solid, m.p. 167° C.

reactant | 10-[(2RS)-1-dimethylamino-2-propyl]-2-phenothiazinecarbothioamide | 2 g | CN(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S)C | C18H21N3S2
reactant | cyclohexylmethylamine | 11.4 cc | C1(CCCCC1)CN | C7H15N
reactant | hydrogen sulphide | S | H2S
solvent | ethanol | 30 cc | C(C)O | C2H6O
product | N-Cyclohexylmethyl-10-[(2RS)-1-dimethylamino-2-propyl]-2-phenothiazinecarbothioamide | 2.53 g | C1(CCCCC1)CNC(=S)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN(C)C)C | C25H33N3S2
